US06479506B1
n-Butyllithium (1.6 M, 7.5 ml, 12 mmol) was added dropwise at −78° C. over 5 min to a stirred solution of methyl 2-cyanomethylbenzoate (Tetrahedron Lett., 1991, 32, 4133-4134) (2.10 g, 12 mmol) in dry THF (50 ml) under nitrogen. The deep red solution was stirred at −78° C. for 10 min, followed by the addition of a solution of phenyl azide (1.47 g, 12.3 mmol) in dry THF (10 ml). The green solution was stirred at −78° C. for 1.5 h then warmed to r.t. over 30 min, becoming bright blue. Saturated aqueous ammonium chloride (50 ml) was added and the mixture was acidified to pH 5 with 1M citric acid. The white precipitate was collected and washed with water and diethyl ether, then dried to give 3-phenyl-1,2,3-triazolo[4,5-c]isoquinolin-5-one (2.00 g, 64%). δH (360 MHz; DMSO) 7.58-7.68 (4H, m), 7.80-7.84 (2H, m), 7.93 (1H, ddd, J=8, 8 and 1), 8.30 (2H, d, J=8) and 12.80 (1H, s); m/z (ES+) 263 (M+H+).

reactant | n-Butyllithium | 12 mmol, 1.6 M, 7.5 ml | C(CCC)[Li]
reactant | methyl 2-cyanomethylbenzoate | 12 mmol, 2.10 g | C(#N)CC1=C(C(=O)OC)C=CC=C1 | C10H9NO2
reactant | phenyl azide | 12.3 mmol, 1.47 g | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-phenyl-1,2,3-triazolo[4,5-c]isoquinolin-5-one | 2.00 g, 64% | C1(=CC=CC=C1)N1NN=C2C1=NC(C=1C=CC=CC21)=O | C15H10N4O
